US07829584B2
6-chloro-3-cyano-2-(4-nitro-phenoxycarbonylmethyl)-pyridine 1-oxide
Solid sodium percarbonate (555 mg, 5.30 mmol H2O2) (Na2CO3.1.5 H2O2, approximately 25% H2O2, Aldrich) was added in one portion under air with stirring to a rt solution of (6-chloro-3-cyano-pyridin-2-yl)-acetic acid 4-nitro-phenyl ester (566 mg, 1.78 mmol), as prepared in the previous step, in CH3CN (13.5 mL) and the slurry was then stirred on an ice bath for 5-10 min. The flask was fitted with an argon needle outlet to prevent pressure build-up, and triflic anhydride (7.58 g, 26.9 mmol) was added dropwise with stirring at 0° C. over about 4 min. The reaction was stirred at 0° C. for 3.5 h, and was then poured into 0° C. saturated NaHCO3 (80 mL), with the residual yellow reaction mixture transferred with DCM (2×10 mL). The ice-cold bilayer was stirred at 0° C. for 30 min, and the light yellow organic layer was saved. The dark yellow upper aqueous layer was extracted with DCM (2×40 mL), the organic layers were combined, dried (Na2SO4), and concentrated to provide 463 mg of the crude title compound as a tan solid. This material was combined with a separately-prepared batch of crude title compound (250 mg), and the whole was dissolved in EtOAc (˜20 mL) and concentrated under reduced pressure in the presence of silica gel (2.7 g) to afford a free-flowing powder. This silica-adsorbed material was flash chromatographed (2:1 toluene/EtOAc eluent) to afford the title compound as a beige solid [319 mg, 35% (calculated from the 463 mg crude)].

reactant | sodium percarbonate | 5.30 mmol, 555 mg | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
reactant | (6-chloro-3-cyano-pyridin-2-yl)-acetic acid 4-nitro-phenyl ester | 1.78 mmol, 566 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(CC1=NC(=CC=C1C#N)Cl)=O | C14H8ClN3O4
reactant | triflic anhydride | 26.9 mmol, 7.58 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | NaHCO3 | 80 mL | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 13.5 mL | CC#N | C2H3N
solvent | EtOAc | ˜20 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-chloro-3-cyano-2-(4-nitro-phenoxycarbonylmethyl)-pyridine 1-oxide | ClC1=CC=C(C(=[N+]1[O-])CC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C#N | C14H8ClN3O5
